US09145414B2
Triethylamine (15 mL) and diphenylphosphoryl azide (16.5 mL) were added to a solution of the mixture of 2-bromothiophene-4-carboxylic acid obtained in the above-described Step (14.48 g) in toluene (250 mL) at room temperature. The reaction solution was stirred for 2 hours. 2-Methyl-2-propanol (40 mL) was added to the reaction solution, and then the reaction solution was stirred at 100° C. for 2 hours. The reaction solution was evaporated under vacuum, and the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain tert-butyl(5-bromothiophen-3-yl)carbamate as a white solid.

reactant | Triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 16.5 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-bromothiophene-4-carboxylic acid | BrC=1SC=C(C1)C(=O)O | C5H3BrO2S
reactant | 2-Methyl-2-propanol | 40 mL | CC(C)(C)O | C4H10O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl(5-bromothiophen-3-yl)carbamate | C(C)(C)(C)OC(NC1=CSC(=C1)Br)=O | C9H12BrNO2S
